US04684662
(a) trans-1-Acetamido-2-chloromercuriocyclopentane
10 ml of cyclopentene in 30 ml of acetonitrile are added dropwise to a suspension of 38.3 g of mercury(II) nitrate in 80 ml of acetonitrile at 0° C. After 1 hour at room temperature, the mixture is poured into a mixture of 60 ml of saturated sodium chloride solution and 250 ml of water, and the solid is filtered off with suction, washed with water and dried. 26 g of the title compound are obtained as an amorphous powder.

reactant | cyclopentene | 10 ml | C1=CCCC1 | C5H8
reactant | mercury(II) nitrate | 38.3 g | [N+](=O)([O-])[O-].[Hg+2].[N+](=O)([O-])[O-]
reactant | sodium chloride | 60 ml | [Cl-].[Na+]
reactant | water | 250 ml | O | H2O
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
product | trans-1-Acetamido-2-chloromercuriocyclopentane | 26 g | C(C)(=O)N[C@H]1[C@@H](CCC1)[Hg]Cl | InChI=1S/C7H12NO.ClH.Hg/c1-6(9)8-7-4-2-3-5-7;;/h4,7H,2-3,5H2,1H3,(H,8,9);1H;/q;;+1/p-1/t7-;;/m0../s1
